US06410561B1
To a suspension of 7-nitroisoquinoline N-oxide obtained in Preparation Example 1-5, Step 3 in toluene (185 ml) was added phosphorus oxychloride (3.5 ml, 37 mmol), and the mixture was stirred under heating at 90° C. for 2 hr. The reaction mixture was cooled to room temperature and the reaction mixture was poured into an aqueous sodium hydrogencarbonate solution. The aqueous layer was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:acetone=30:1) to give 1-chloro-7-nitroisoquinoline (540 mg, 14%).

reactant | 7-nitroisoquinoline N-oxide | [N+](=O)([O-])C1=CC=C2C=C[N+](=CC2=C1)[O-] | C9H6N2O3
reactant | phosphorus oxychloride | 37 mmol, 3.5 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 185 ml | C1(=CC=CC=C1)C | C7H8
product | 1-chloro-7-nitroisoquinoline | 540 mg, 14% | ClC1=NC=CC2=CC=C(C=C12)[N+](=O)[O-] | C9H5ClN2O2
